US09403818B2
Preparation of methyl 8-(4-(dimethylamino)-phenyl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate
Methyl 8-(4-(dimethylamino)-phenyl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate was prepared according to General Procedure A from methyl 8-chloro-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate (77 mg, 0.26 mmol) and (4-(dimethylamino)-phenyl)-boronic acid (56 mg, 0.34 mmol). Purification by flash silica column chromatography (DCM:MeOH) (1:0 to 94:6) afforded the title compound as a yellow solid (39 mg, 31%).

reactant | methyl 8-chloro-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate | 0.26 mmol, 77 mg | ClC=1C=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)OC)=O | C15H14ClNO3
reactant | (4-(dimethylamino)-phenyl)-boronic acid | 0.34 mmol, 56 mg | CN(C1=CC=C(C=C1)B(O)O)C | C8H12BNO2
product | methyl 8-(4-(dimethylamino)-phenyl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate | 39 mg, 31% | CN(C1=CC=C(C=C1)C=1C=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)OC)=O)C | C23H24N2O3
